US04891372
7-Methanesulphonamido-3-[2-(4-methanesulphonamido-2-methoxybenzamido)ethyl]-1,2,4,5-tetrahydro-3H-3-benzazepine
Methanesulphonyl chloride (0.155 ml) was added dropwise to a solution of 7-amino-3-[2-(4-amino-2-methoxybenzamido)ethyl]-1,2,4,5-tetrahydro-3H-3-benzazepine in pyridine cooled to 0°, and the reaction mixture was stirred for a further 18 hours at room temperature. The solvent was evaporated in vacuo and the residue taken up in methylene chloride, washed three times with aqueous sodium bicarbonate and three times with brine. The organic layer was dried (Na2SO4), filtered and evaporated to give an oil, in which thin layer chromatography detected the presence of some unreacted starting material. The oil was therefore taken up in pyridine and treated with methanesulphonyl chloride (0.05 ml), and the reaction mixture was stirred at room temperature for 72 hours. The solvent was then evaporated in vacuo and the residue taken up in methylene chloride, washed three times with aqueous sodium bicarbonate and three times with brine. The organic layer was dried (Na2SO4), filtered and evaporated to give an oil. The resulting oil was then purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 5%) and the product-containing fractions were combined and evaporated in vacuo to give the title compound as a colourless foam, yield 0.32 g.

reactant | Methanesulphonyl chloride | 0.155 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7-amino-3-[2-(4-amino-2-methoxybenzamido)ethyl]-1,2,4,5-tetrahydro-3H-3-benzazepine | NC1=CC2=C(CCN(CC2)CCNC(C2=C(C=C(C=C2)N)OC)=O)C=C1 | C20H26N4O2
reactant | methanesulphonyl chloride | 0.05 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-Methanesulphonamido-3-[2-(4-methanesulphonamido-2-methoxybenzamido)ethyl]-1,2,4,5-tetrahydro-3H-3-benzazepine | CS(=O)(=O)NC1=CC2=C(CCN(CC2)CCNC(C2=C(C=C(C=C2)NS(=O)(=O)C)OC)=O)C=C1 | C22H30N4O6S2
